US04548973
A 250 ml round-bottom flask is equipped with a mechanical stirrer, thermometer, and a distillation head and condenser set up to remove distillate. The flask is charged with 100 g (0.52 moles) ethyl benzoylacetate and 0.075 g sodium bicarbonate. The flask and its contents are heated by means of an oil bath over a period of about 5 hours at temperature from ambient to a maximum of 200° C. while the ethanol formed is continuously removed. Unreacted ethyl benzoylacetate is removed by vaccum distillation. The residue consisting of crude 3-benzoyl-6-phenyl-2H-pyran-2,4-(3H)-dione is then heated at 80°-85° C. with 500 g of 85% sulfuric acid for 4 hours. This mixture is poured into 1 liter of ice-water and the water extracted three times with 150 ml portions of chloroform. The combined chloroform extracts are stripped of volatiles on a rotary evaporator and the residue of 2,6-diphenyl-4-oxopyran-3-carboxylic acid isolated by fractional crystallization. A toluene solution of this pyrone is then treated with an equal molar quantity of 4-amino-2,2,6,6-tetramethylpiperidine and refluxed with removal of water by means of a Dean-Stark trap. When water has ceased to separate, the toluene is removed on a rotary evaporator and the residue cooled and treated with hexane to promote crystallization of the crude product. The product is further purified by fractional crystallization.

reactant | ethyl benzoylacetate | 0.52 moles, 100 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | sodium bicarbonate | 0.075 g | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,6-diphenyl-4-oxopyran-3-carboxylic acid | C1(=CC=CC=C1)C=1OC(=CC(C1C(=O)O)=O)C1=CC=CC=C1 | C18H12O4
